US08614195B2
To the stirred solution of phosphoric acid di-tert-butyl ester (2R,3S,4R,5R,6S)-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-3,4,5-trihydroxy-tetrahydro-pyran-2-ylmethyl ester (500 mg) in methanol (20 ml) was added amberlyst 15 ion exchange resin (250 mg) and refluxed for overnight. Reaction mixture was cooled to room temperature, filtered through celite bed and filtrate was concentrated to give 300 mg of phosphoric acid mono-{(2R,3S,4R,5R,6S)-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-3,4,5-trihydroxy-tetrahydro-pyran-2-ylmethyl}ester. The crude material was taken up for next reaction.

reactant | phosphoric acid di-tert-butyl ester (2R,3S,4R,5R,6S)-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-3,4,5-trihydroxy-tetrahydro-pyran-2-ylmethyl ester | 500 mg | O1CCOC2=C1C=CC(=C2)CC=2C=C(C=CC2CC)[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)COP(OC(C)(C)C)(OC(C)(C)C)=O)O)O)O | C31H45O10P
solvent | methanol | 20 ml | CO | CH4O
product | phosphoric acid mono-{(2R,3S,4R,5R,6S)-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-3,4,5-trihydroxy-tetrahydro-pyran-2-ylmethyl}ester | 300 mg | O1CCOC2=C1C=CC(=C2)CC=2C=C(C=CC2CC)[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)COP(O)(O)=O)O)O)O | C23H29O10P
